US08466282B2
Tert-butyl (3R,5S)-3-[hydroxy(pyridin-2-yl)methyl]-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl)carbonyl)(2-methylpropyl)amino)piperidine-1-carboxylate
To a solution of bromopyridine (0.058 ml) cooled to −78° C. in THF (5 ml) was added 1.6M-butyllithium hexane solution (0.33 ml) and the mixture was stirred for 30 min. A solution of tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (257 mg) in THF (5 ml) was added and the mixture was stirred at −20° C. for 2 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) was concentrated under reduced pressure to give the object product (100 mg).

reactant | bromopyridine | 0.058 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyllithium hexane | 0.33 ml | CCCCCC.C(CCC)[Li]
reactant | tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 257 mg | C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H42N4O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3R,5S)-3-[hydroxy(pyridin-2-yl)methyl]-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl)carbonyl)(2-methylpropyl)amino)piperidine-1-carboxylate | 100 mg | OC([C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C)C2=NC=CC=C2 | C33H47N5O5
